datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCOC(=O)CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)CCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"CCC(CC)C(=O)[O:21][H:20].[O-]c1nc2nc[nH]c2c[n:10]1>>CCC(CC)C(=O)[O-:21].[O-]c1nc2nc[nH]c2c[n+:10]1[H:20] 10=20;20,21=21",
"Oc1ccccc1CN1CCCNCCC[NH:10]CCC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>Oc1ccccc1CN1CCCNCCC[NH+:10]([H:20])CCC1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C=Cc1cccc[n:10]1.COCC1=C(C(=O)[O:21][H:20])C2C=CC1C2>>C=Cc1cccc[n+:10]1[H:20].COCC1=C(C(=O)[O-:21])C2C=CC1C2 10=20;20,21=21",
"Cc1cccc(C)c1[N:10](C)C.O=C(N[NH2+:21][H:20])c1ccccc1>>Cc1cccc(C)c1[N+:10](C)(C)[H:20].O=C(N[NH2:21])c1ccccc1 10=20;20,21=21",
"C[NH+](C)CCC/[N:10]=C(/c1ccccc1)c1ccccc1-c1ccccc1.Cc1cc(C)cc([O:21][H:20])c1>>C[NH+](C)CCC/[N+:10](=C(/c1ccccc1)c1ccccc1-c1ccccc1)[H:20].Cc1cc(C)cc([O-:21])c1 10=20;20,21=21",
"O=C(Cc1[nH]c2ccccc2[nH+]1)[O:21][H:20].[NH3+]CC(=O)NCC(=O)NCC(=O)N1CCCC1C(=O)[O-:10]>>O=C(Cc1[nH]c2ccccc2[nH+]1)[O-:21].[NH3+]CC(=O)NCC(=O)NCC(=O)N1CCCC1C(=O)[O:10][H:20] 10=20;20,21=21",
"CC[SH+]C(C)[O-:10].COc1ccc(C[NH2+:21][H:20])cc1OC>>CC[SH+]C(C)[O:10][H:20].COc1ccc(C[NH2:21])cc1OC 10=20;20,21=21",
"N[n+]1ccccc1[O:21][H:20].c1ccc(CCN[NH2:10])cc1>>N[n+]1ccccc1[O-:21].c1ccc(CCN[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC[N+:21]1([H:20])CC1.O=C(C(c1ccc(-c2ccccc2)cc1)C1(O)CCCC1)[O-:10]>>CC[N:21]1CC1.O=C(C(c1ccc(-c2ccccc2)cc1)C1(O)CCCC1)[O:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(Cc1ccccc1OC)[H:20].c1ccc(C[NH2:10])cc1>>CC[N:21](CC)Cc1ccccc1OC.c1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C)([NH3+])C(C)(C)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)([NH3+])C(C)(C)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"BrCC[NH2:10].Cc1cc(N)[n+:21]([H:20])c2c1ccc1ccccc12>>BrCC[NH2+:10][H:20].Cc1cc(N)[n:21]c2c1ccc1ccccc12 10=20;20,21=21",
"CN(C)C1CC(C)(C)[NH:10]C(C)(C)C1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)C1CC(C)(C)[NH+:10]([H:20])C(C)(C)C1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN1C(=O)Nc2c([nH]c[n+:21]2[H:20])C1=O.CO[NH2:10]>>CN1C(=O)Nc2c([nH]c[n:21]2)C1=O.CO[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)NCC[NH+](CC(=O)O)CC(=O)[O:21][H:20])cc1.NC(=O)C=C(O)c1cc[n:10]cc1>>Cc1ccc(S(=O)(=O)NCC[NH+](CC(=O)O)CC(=O)[O-:21])cc1.NC(=O)C=C(O)c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(C)cc3)o2)cc1.c1ccc(-c2cccc([O-:10])c2)cc1>>Cc1ccc(-c2c[n:21]c(-c3ccc(C)cc3)o2)cc1.c1ccc(-c2cccc([O:10][H:20])c2)cc1 10=20;20,21=21",
"COc1ccc2c(c1)c1ccnc(C)c1[n-:10]2.Cc1cc[n+:21]([H:20])c(C)c1>>COc1ccc2c(c1)c1ccnc(C)c1[n:10]2[H:20].Cc1cc[n:21]c(C)c1 10=20;20,21=21",
"Cc1ccc([O-:10])c(C(C)C)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc([O:10][H:20])c(C(C)C)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=P([O-])(O)C([NH2+]Cc1cccc[n+:21]1[H:20])c1ccccc1O.S=C(c1cccc(Br)c1)[N-:10]c1ccc(Cl)c(Cl)c1>>O=P([O-])(O)C([NH2+]Cc1cccc[n:21]1)c1ccccc1O.S=C(c1cccc(Br)c1)[N:10](c1ccc(Cl)c(Cl)c1)[H:20] 10=20;20,21=21",
"CCN1N=C(c2ccccc2)S/C1=[NH+:21]/[H:20].COC(=O)C1=CCC[NH:10]C1>>CCN1N=C(c2ccccc2)SC1=[NH:21].COC(=O)C1=CCC[NH+:10]([H:20])C1 10=20;20,21=21",
"C(=C\c1cc[n:10]cc1)\c1ccccc1.c1cncc(C[NH2+:21][H:20])c1>>C(=C\c1cc[n+:10]([H:20])cc1)\c1ccccc1.c1cncc(C[NH2:21])c1 10=20;20,21=21",
"COc1cc(S(N)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.N/C(c1ccccc1)=[S+:21]/[H:20]>>COc1cc(S(N)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.NC(c1ccccc1)=[S:21] 10=20;20,21=21",
"CCC(C)[NH:10]C(C)CC.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC(C)[NH+:10](C(C)CC)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=[N+]([O-])c1ccc([NH2+:21][H:20])c([N+](=O)[O-])c1.c1ncc(CC[NH2:10])[nH]1>>O=[N+]([O-])c1ccc([NH2:21])c([N+](=O)[O-])c1.c1ncc(CC[NH2+:10][H:20])[nH]1 10=20;20,21=21",
"COCCC[N+:21](C)(C)[H:20].Cc1nc(NCc2ccco2)c2cn[nH]c2[n:10]1>>COCCC[N:21](C)C.Cc1nc(NCc2ccco2)c2cn[nH]c2[n+:10]1[H:20] 10=20;20,21=21",
"C1CCC([P+:21](C2CCCCC2)(C2CCCCC2)[H:20])CC1.COc1ccc(C(=O)[O-:10])cc1C>>C1CCC([P:21](C2CCCCC2)C2CCCCC2)CC1.COc1ccc(C(=O)[O:10][H:20])cc1C 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(-c2ccccc2[O-:10])cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(-c2ccccc2[O:10][H:20])cc1 10=20;20,21=21",
"C[NH2+]CC(C)C[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH2+]CC(C)C[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)c1ccccc1[NH2:10].O=[N+]([O-])C1=CC([N+](=O)[O-])=C([O:21][H:20])C=C1>>CC(C)c1ccccc1[NH2+:10][H:20].O=[N+]([O-])C1=CC([N+](=O)[O-])=C([O-:21])C=C1 10=20;20,21=21",
"Cc1[nH]c(CO)[n:10]c1C.c1cncc([S:21][H:20])c1>>Cc1[nH]c(CO)[n+:10]([H:20])c1C.c1cncc([S-:21])c1 10=20;20,21=21",
"CCC[NH:10]C(C)C(=O)[O-].C[NH+](c1ccccc1)C([O-])[O:21][H:20]>>CCC[NH+:10](C(C)C(=O)[O-])[H:20].C[NH+](c1ccccc1)C([O-])[O-:21] 10=20;20,21=21",
